* OPA2388 dual opamp.
.include spice/opa388.lib
.subckt LT5400-1 a1 b1 c1 d1 d2 c2 b2 a2 pad
Ra a1 a2 10k
Rb b1 b2 10k
Rc c1 c2 10k
Rd d1 d2 10k
.ends
